US08119627B2
Piperidine-4-carboxylic acid [2-(3,5-dichloro-phenoxy)-phenyl]-amide HVB01123 C18H18Cl2N2O2, MW 365.25
4-[2-(3,5-Dichloro-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester (036 g, 0.77 mmol) was dissolved in DCM (9 ml), and to this was added TFA (4 ml). The reaction was stirred at room temperature for 2 h. This was then poured onto solid K2CO3, and extracted using DCM and water, to afford the desired product as a yellow solid. 0.21 g, (75%), m.p. 138-139° C., Rf. 0.3 (10% Methanol-DCM), 1HNMR (CDCl3, 270 MHz) δ 1.65 (3H, m, CH2 and NH), 1.86 (2H, m, CH2), 2.36 (1H, m, CH), 2.65 (2H, td, J=2.7, 9.6, NCH2), 3.16 (2H, m, NCH2), 6.89 (2H, d, J=1.7, HE, HG), 6.90 (1H, m, HD), 7.06 (1H, td, J=1.5, 7.4, HB), 7.12 (1H, t, J=1.7, HF), 7.18 (1H, td, J=8.2, 1.46, HC), 7.55 (1H, s, NH), 8.43 (1H, dd, J=8.2, HA).

reactant | 4-[2-(3,5-Dichloro-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.77 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=CC=C1)OC1=CC(=CC(=C1)Cl)Cl)=O | C23H26Cl2N2O4
reactant | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 9 ml | C(Cl)Cl | CH2Cl2
product | Piperidine-4-carboxylic acid [2-(3,5-dichloro-phenoxy)-phenyl]-amide | ClC=1C=C(OC2=C(C=CC=C2)NC(=O)C2CCNCC2)C=C(C1)Cl | C18H18Cl2N2O2
